US06096710
Boc-Gly-Nleu-Pro-OH
Boc-Gly-Nleu-Pro-OBz (7.9 g, 0.0166 mol.) was dissolved in a mixture of 50 ml H2O and 80 ml THF. The solution was chilled to 0° C. KOH (1.9 g, 0.033 mol.) dissolved in 30 ml H2O was added while stirring the solution. The stirring was continued at room temperature for one hour. The THF was removed under reduced pressure. The aqueous solution was chilled to 0° C. and acidified to about pH=3 by addition of concentrated HCl (swirling the solution vigorously at the same time). The product was extracted from the aqueous solution by ethyl acetate. The combined organic layer was dried using Na2SO4 and the ethyl acetate was removed under reduced pressure to obtain the product (5.7 g, 89%). TLC Rf=0.38 (developing solvents: CMA, 85:15:3). FAB-MS, observed (M+H)+ =386. 1H-NMR (500 MHz, DMSO-d6, 27° C., assignment by TOCSY) δ 6.69 (m, Gly-NH), 6.57 (m, Gly-NH), 4.56 (m, Pro-α), 4.28-4.14 (m, Pro-α), 4.14-3.97 (m, Nleu-α), 3.83-3.62 (m, Gly-α), 3.62-3.44 (m, Gly-α, Pro-δ), 3.44-3.28 (m, Pro-δ), 3.12-2.92 (m, Nleu-β), 2.23-1.58 (m, Pro-β, Pro-γ, Nleu-γ), 1.34 (m, Boc-CH3), 0.85 (m, Nleu-δ), 0.78 (m, Nleu-δ).

reactant | Boc-Gly-Nleu-Pro-OBz | 0.0166 mol, 7.9 g | N(CC(=O)N[C@@H](CCCC)C(=O)N1[C@H](C(=O)OC(=O)C2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C25H35N3O7
reactant | KOH | 0.033 mol, 1.9 g | [OH-].[K+]
solvent | H2O | 50 ml | O | H2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | H2O | 30 ml | O | H2O
product | Boc-Gly-Nleu-Pro-OH | 5.7 g, 89% | N(CC(=O)N[C@@H](CCCC)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C18H31N3O6
